US07214673B2
(S)-10-{3-[2-(4-Fluoro-phenyl)-ethyl]-piperazin-1-yl}-2-methyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene
By a similar method to the method of Example 460, using 2-methyl4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-ylamine(1.21 g, 5.25 mmol) and (S)-2-[2-(4-fluoro-phenyl)-ethyl]-piperazine (1.09 g, 5.25 mmol) to give 0.848 g of the title compound as a tan solid: mass spectrum (ion spray): m/z=422 (M+1); Analysis for C23H24FN5S(0.3 H2O): calcd: C, 64.70; H, 5.81; N, 16.40; found: C, 64.97; H, 5.86; N, 16.15.

reactant | 2-methyl4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-ylamine | 5.25 mmol, 1.21 g | CC1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N | C11H10N4S
reactant | (S)-2-[2-(4-fluoro-phenyl)-ethyl]-piperazine | 5.25 mmol, 1.09 g | FC1=CC=C(C=C1)CC[C@@H]1NCCNC1 | C12H17FN2
product | (S)-10-{3-[2-(4-Fluoro-phenyl)-ethyl]-piperazin-1-yl}-2-methyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene | 0.848 g | FC1=CC=C(C=C1)CC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=NC13)C)C=CC=C2 | C23H24FN5S
